US07435837B2
Treatment of 1-bromo-2-methylbenzene (10.06 g, 58.84 mmol) with (2-fluoro-6-methyoxyphenyl)boronic acid (5.0 g, 29.42 mol tetrakis(triphenylphosphine)palladium(0) (2.5 g, 2.16 mmol), and sodium carbonate (6.2 g, 58.84 mmol) generally according to the procedure described for Intermediate 37 provided 2.35 g (37%) of 6-fluoro-2′-methylbiphenyl-2-yl methyl ether. A solution of 6-fluoro-2′-methylbiphenyl-2-yl methyl ether (2.35 g, 10.86 mmol) in hydrogen bromide (40 mL, 30 wt. % in acetic acid) was heated to 55° C. for 12 h. The reaction mixture was concentrated under in vacuo and the crude residue diluted with ethyl acetate (200 mL). The organic layer was carefully extracted with saturated bicarbonate solution (3×200 mL) was dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. Treatment of 6-fluoro-2′-methybiphenyl-2-ol (2.17 g, 10.84 mmol) with sodium hydride (0.65 g, 16.26 mmol, 60 wt. %) and allyl bromide (0.96 g, 16.26 mmol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 3-allyl-6-fluoro-2′-methylbiphenyl-2-ol. Treatment of 3-allyl-6-fluoro-2′-methylbiphenyl-2-ol (1.77 g, 7.3 mmol) with 3-chloroperoxybenzoic acid (3.2 g, 10.96 mmol, 77%) followed by potassium carbonate (1.2 g, 8.76 mmol) generally according to the procedure described for Intermediate 9 afforded 1.5 g (80%) of (±)-[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol. Treatment of (±)-[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol (1.5 g, 5.81 mmol) with p-toluenesulfonyl chloride (1.66 g, 8.71 mol) generally according to the procedure described for Intermediate 10 gave 2.17 g (90%) of (±)-[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Treatment of (±)-[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.23 g, 0.56 mmol) with sodium azide (0.23 g, 3.54 mmol) generally according to the procedure described for Intermediate 98 afforded 0.135 g, (86%) of (±)-2-(azidomethyl)-6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran. Treatment of (±)-2-(azidomethyl)-6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran (0.135 g, 0.4 mmol) in tetrahydrofuran (10 mL) with polymer-supported triphenylphosphine (0.30 g, 0.9 mmol) generally according to the procedure described for Example 154 provided 0.11 g (67%) of (±)-{[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine as a white solid, hydrochloride salt. mp 216-218° C.

reactant | (±)-2-(azidomethyl)-6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran | 0.4 mmol, 0.135 g | N(=[N+]=[N-])CC1OC2=C(C1)C=CC(=C2C2=C(C=CC=C2)C)F | C16H14FN3O
reactant | triphenylphosphine | 0.9 mmol, 0.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (±)-{[6-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine | 0.11 g, 67% | FC1=C(C2=C(CC(O2)CN)C=C1)C1=C(C=CC=C1)C | C16H16FNO
